US04419121
4.6 g of N-(2-methoxyethoxy-phenylsulfonyl)phenylcarbamate and 1.8 g of 2-amino-4-methoxy-6-methyl-pyrimidine are refluxed in 40 ml of dioxane for 4 hours. The reaction mixture is cooled to a temperature of 20° C., filtrated and evaporated to dryness. The residue is crystallised from a dioxane/ether mixture (1:10) yielding 4.1 g of N-(2-methoxyethoxy-phenylsulfonyl)N'-(4-methoxy-6-methyl-pyrimidin-2-yl)urea with a melting point of 160°-162° C.

reactant | N-(2-methoxyethoxy-phenylsulfonyl)phenylcarbamate | 4.6 g | COCCOC1=C(C=CC=C1)S(=O)(=O)N(C([O-])=O)C1=CC=CC=C1
reactant | 2-amino-4-methoxy-6-methyl-pyrimidine | 1.8 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-(2-methoxyethoxy-phenylsulfonyl)N'-(4-methoxy-6-methyl-pyrimidin-2-yl)urea | 4.1 g | COCCOC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)C | C16H20N4O6S
